US07741321B2
To a solution of 1-[3,5-diiodo-4-(2-methyl-allyloxy)-phenyl]-cyclopropane-carboxylic acid methyl ester (3.5 g, 7.0 mmol) in toluene (15 mL) was added Bu3SnH (2.4 g, 8.4 mmol) and AIBN (0.1 g, 0.7 mmol). The mixture was heated at reflux overnight. The reaction mixture was concentrated under vacuum and the residue was purified by column chromatography on silica gel (Petroleum Ether/EtOAc 20:1) to give 1-(3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-cyclopropanecarboxylic acid methyl ester (1.05 g, 62%). 1H NMR (400 MHz, CDCl3) δ 7.10-7.07 (m, 2H), 6.71 (d, J=8 Hz, 1H), 4.23 (s, 2H), 3.62 (s, 3H), 1.58-1.54 (m, 2H), 1.34 (s, 6H), 1.17-1.12 (m, 2H).

reactant | 1-[3,5-diiodo-4-(2-methyl-allyloxy)-phenyl]-cyclopropane-carboxylic acid methyl ester | 7.0 mmol, 3.5 g | COC(=O)C1(CC1)C1=CC(=C(C(=C1)I)OCC(=C)C)I | C15H16I2O3
reactant | Bu3SnH | 8.4 mmol, 2.4 g | CCCC[SnH](CCCC)CCCC
reactant | AIBN | 0.7 mmol, 0.1 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-cyclopropanecarboxylic acid methyl ester | 1.05 g, 62% | COC(=O)C1(CC1)C=1C=CC2=C(C(CO2)(C)C)C1 | C15H18O3
